US07544835B2
2-Isopropoxy-3-[4-methoxy-3-(2-{[(4-phenoxyanilino)-carbonyl]oxy}ethyl)phenyl]propanoic acid
Using ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and 4-phenoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | OCCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C17H26O5
reactant | 4-phenoxyphenylisocyanate | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
product | 2-Isopropoxy-3-[4-methoxy-3-(2-{[(4-phenoxyanilino)-carbonyl]oxy}ethyl)phenyl]propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)CCOC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C28H31NO7
